US06809108B1
(7R)-7-({({(2R)-1-({(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)-2-pyrrolidinyl}carbonyl)-2-pyrrolidinyl}carbonyl)amino}methyl)-5-azoniaspiro[4.5]decane chloride
The method of Japan Kokai (laid-open) No. Sho 62(1987)-215588 A1 was followed. In 0.6 ml of chloroform, 41 mg of (2R)-1-{(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonyl-N-((3S)-3-piperidylmethyl)pyrrolidine-2-carboxamide, 0.014 ml of diethylamine and 0.032 ml of 1,4-dibromobutane were dissolved, and the solution was allowed to stand in a hermetically sealed vessel for 6 days. The reaction liquid was diluted with chloroform and the solvent was distilled off under reduced pressure. The resultant residue was dissolved in a mixture of ultrapure water 0.6 ml/methanol 0.1 ml, and developed on a reversed phase medium pressure liquid chromatography [ODS-AQ 120-S50 (YMC). The product was purified and anion-exchanged by pouring 20 ml of saturated brine, washing with 150 ml of ultrapure water, and eluting from methanol/water=1/1, to provide 45 mg of the title compound as a white solid.

reactant | (2R)-1-{(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonyl-N-((3S)-3-piperidylmethyl)pyrrolidine-2-carboxamide | 41 mg | O[C@@H]1C[C@H](N(C1)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)N1[C@H](CCC1)C(=O)NC[C@@H]1CNCCC1 | C37H44N4O4
reactant | diethylamine | 0.014 ml | C(C)NCC | C4H11N
reactant | 1,4-dibromobutane | 0.032 ml | BrCCCCBr | C4H8Br2
reactant | chloroform | 0.6 ml | C(Cl)(Cl)Cl | CHCl3
product | (7R)-7-({({(2R)-1-({(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)-2-pyrrolidinyl}carbonyl)-2-pyrrolidinyl}carbonyl)amino}methyl)-5-azoniaspiro[4.5]decane chloride | 45 mg | [Cl-].O[C@@H]1C[C@H](N(C1)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)N1[C@H](CCC1)C(=O)NC[C@@H]1C[N+]2(CCCC2)CCC1 | InChI=1S/C41H50N4O4.ClH/c46-35-26-37(40(49)43-22-12-21-36(43)39(48)42-28-31-14-13-25-45(30-31)23-10-11-24-45)44(29-35)38(47)27-41(32-15-4-1-5-16-32,33-17-6-2-7-18-33)34-19-8-3-9-20-34;/h1-9,15-20,31,35-37,46H,10-14,21-30H2;1H/t31-,35-,36-,37+;/m1./s1
